US06846827B1
2-Isopropylamino-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine
A mixture of 2-chloro-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine (0.2 g) and isopropylamine (5 ml) was heated to 100° C. in a sealed tube for 24 hours. The mixture was evaporated and the residue was partitioned between methylene chloride and water. The organic phase was washed with brine, dried over sodium sulphate and evaporated. The resultant solid was recrystallised from tert-butyl methyl ether to give the title compound (0.145 g); NMR Spectrum: (DMSOd6) 1.04 (s, 3H), 1.06 (s, 3H), 2.17 (s, 3H), 3.5 (m, 4H), 3.7 (m, 4H), 3.97 (m, 1H), 5.82 (m, 1H), 6.2 (br m, 1H), 7.07 (m, 1H), 7.19 (m, 2H), 7.45 (m, 1H), 7.78 (m, 1H), 7.87 (br m, 1H), 8.25 (m, 1H), 8.31 (s, 1H), 10.18 (s, 1H); Mass Spectrum: M+H+ 448.

reactant | 2-chloro-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine | 0.2 g | ClC1=NC=CC(=N1)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C | C21H21ClN6O2
reactant | isopropylamine | 5 ml | C(C)(C)N | C3H9N
product | 2-Isopropylamino-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine | 0.145 g | C(C)(C)NC1=NC=CC(=N1)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C | C24H29N7O2
